US04006145
21.5 g of lithium borohydride are suspended in 375 ml of tetrahydrofuran under a nitrogen atmosphere and heated to reflux. This suspension is treated dropwise under reflux over a period of 20 minutes with a solution of 130 g of methyl 2-(phenylthio)-5-trifluoromethyl-benzoate in 600 ml of tetrahydrofuran. The mixture is stirred under reflux for 2 hours and subsequently cooled to 2° C. The mixture is treated over a period of 10 minutes with 450 ml of 2-N aqueous hydrochloric acid in such a manner that the temperature does not exceed 10° C. After the addition of 750 ml of water, the mixture is extracted with 1000 ml of ether. The organic phase is washed twice with 300 ml of water each time, dried over sodium sulphate, filtered and evaporated. There is obtained 2-(phenylthio)-5-trifluoromethyl-benzyl alcohol as a light-yellow oil which crystallises spontaneously; melting point 84° C.

reactant | lithium borohydride | 21.5 g | [BH4-].[Li+]
reactant | methyl 2-(phenylthio)-5-trifluoromethyl-benzoate | 130 g | C1(=CC=CC=C1)SC1=C(C(=O)OC)C=C(C=C1)C(F)(F)F | C15H11F3O2S
reactant | hydrochloric acid | Cl | ClH
reactant | water | 750 ml | O | H2O
solvent | tetrahydrofuran | 375 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 2-(phenylthio)-5-trifluoromethyl-benzyl alcohol | C1(=CC=CC=C1)SC1=C(CO)C=C(C=C1)C(F)(F)F | C14H11F3OS
